US08957205B2
1-[[(2-Oxo-1-imidazolidinyl)carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester
1.38 g (9.3 mmol) of 2-oxo-1-imidazolidinecarbonyl chloride was added to a solution of 2.17 g (9.3 mmol) of 1-aminocyclohexanecarboxylic acid phenylmethyl ester and 1.04 g (10 mmol) of triethylamine in 100 ml of chloroform, and the mixture was stirred at 60° C. for 4 days. The reaction solution was successively washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and the mixture was dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the obtained crystal was washed with diethyl ether to obtain 2.64 g (82%) of the title compound.

reactant | 2-oxo-1-imidazolidinecarbonyl chloride | 9.3 mmol, 1.38 g | O=C1N(CCN1)C(=O)Cl | C4H5ClN2O2
reactant | 1-aminocyclohexanecarboxylic acid phenylmethyl ester | 9.3 mmol, 2.17 g | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)N | C14H19NO2
reactant | triethylamine | 10 mmol, 1.04 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[[(2-Oxo-1-imidazolidinyl)carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 2.64 g, 82% | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)N1C(NCC1)=O | C18H23N3O4
